Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fever tachycardia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Primary Care Physician:  

___: Fever,Tachycardia   

Reason for MICU transfer: Tachycardia

History of Present Illness:  Mr. ___ is a ___ year old ___ 
male with frontotemporal dementia, parkinsonism, paranoid 
schizophrenia, GERD, and chronic Hep C who presented from ___ 
___ with fevers to 100.3 and tachycardia to 117.  At baseline, 
pt is non-verbal. Staff from rehab found him with mild hypoxia 
to 93% on RA. He was treated with tylenol and levoquin 750mg, 
started on 100cc/hr. 

Initial VS in the ED: 99.4 (max 100.2) 100 (max 129) 146/92 14 
97% 2L Nasal Cannula. Exam in the ED notable for wheezing, but 
otherwise unremarkable with a non-tender abdomen and no 
meningeal signs to indicate any specific source of infection. Pt 
was given 125cc NS, 2L LR, Vancomycin 1000 mg IV, CefePIME 2 g 
IV, acetaminophen 650 PR x1 as well as albuterol and 
ipratroprium nebs.  U/A was clean with trace protein and 4 uro 
bili. Labs notable for Na 152, BUN 29, Glucose 219. CXR did not 
appear to show any acute cardiopulmonary process. CTA was 
performed, which showed no PE on preliminary read.  VS On 
transfer: 99.1 121 129/79 28 98% 
 
On arrival to the MICU, pt is alert, non-verbal. No expressions 
of pain or discomfort.  

Review of systems:  
(+) Per HPI  
(-) Unable to obtain per pt as he is nonverbal

 
Past Medical History:
Parkinsonism (failed trial of sinemet)
Chronic vomiting
Constipation
Hyponatremia 128-133, attributed to Wellbutrin
Benign essential HTN
Insomnia
Chronic Hepatitis C
BPH
Senile depressive disorder
Asthma
GERD
Aspiration (chronic)
Frontotemporal dementia
Paranoid Schizophrenia
Prostate carcinoma s/p radical prostatectomy in ___ at ___

 
Social History:
___
Family History:
Family History (per OMR):  Not pertinent to current 
hospitalization. Unable to obtain from pt as he is nonverbal.
 
Physical Exam:
Vitals: T: 99.5 BP: 161/80 P: 106 R: 25 O2: 94% RA  
General: NAD, tracks with eyes, focuses
HEENT: PERRL, MM dry
Neck: No LAD
CV: Tachycardic, reg rhythm, no murmurs/rubs/gallops
Lungs: Poor respiratory effort, but CTAB, no 
wheezines/rales/rhonchi.
Abdomen: Soft, NT, ND, hypoactive bowel sounds
GU: Foley

 
Pertinent Results:
 
___ 10:10PM BLOOD WBC-11.0 RBC-4.91 Hgb-16.4 Hct-47.1 
MCV-96 MCH-33.4* MCHC-34.7 RDW-13.0 Plt ___
___ 10:10PM BLOOD Neuts-60.9 ___ Monos-7.7 Eos-0.4 
Baso-0.7
___ 10:10PM BLOOD Plt ___
___ 10:10PM BLOOD Glucose-219* UreaN-29* Creat-1.0 Na-152* 
K-3.8 Cl-114* HCO3-28 AnGap-14
___ 04:35AM BLOOD Glucose-148* UreaN-23* Creat-0.8 Na-144 
K-3.8 Cl-110* HCO3-27 AnGap-11
___ 10:10PM BLOOD ALT-108* AST-81* CK(CPK)-87 AlkPhos-85 
TotBili-1.0
___ 01:29PM BLOOD CK-MB-2 cTropnT-0.02*
___ 10:10PM BLOOD CK-MB-2 cTropnT-0.02*
___ 04:35AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.3
___ 10:10PM BLOOD Osmolal-323*
___ 10:22PM BLOOD Lactate-1.9
.
CTA chest: 
FINDINGS:  No enlarged axillary, mediastinal, or hilar 
lymphadenopathy.  The visualized thyroid gland is unremarkable.  
The airways are patent to the subsegmental level.  There are a 
small amount of secretions in the mid trachea.  The aorta is 
normal in size.  There is no filling defect in the pulmonary 
arteries to the subsegmental level.  There are calcified lymph 
nodes in the subcarinal station and left hilum.  No pleural 
effusion, pericardial effusion or pneumothorax.  There is mild 
cardiomegaly. There is a streaky opacity in the right lower 
lobe.  Mild amount of dependent opacity is also 
noted within the left upper lobe.  This study is not tailored 
for evaluation of the intra-abdominal organs, 
limited evaluation is unremarkable.  
BONES:  No acute bony abnormality. 
  
IMPRESSION:   
1.  No evidence of pulmonary embolism.   
2.  Right lower lobe streaky opacity likely atelectasis, 
although infection is not excluded.   
3.  Left upper lobe dependent opacity could represent 
atelectasis or 
aspiration especially given tracheal secretions. 
  

 
Brief Hospital Course:
Assessment: ___ year male with multiple medical problems 
including frontotemporal dementia who is non-verbal at baseline, 
parkinsonism, paranoid schizophrenia, chronic aspiration, and 
chronic Hep C who presented from ___ with fever to 
100.3 that appears to be most likely due to aspiration and found 
to have hypernatremia. 
.
Hospital course: 
.
#FEVER: He has several risk factors as well as a personal 
history of aspiration.  Aspiration pneumonitis or pneumonia was 
considered to be the most likely etiology given CT findings of 
bibasilar pulmonary opacity and secretions in trachea. He was 
afebrile and on room air during his hospital course. He was 
treated with levofloxacin and metronidazole (penicillin allergy) 
with good response.  He will be treated for a total of 7 days 
with a completion date of ___.  On date of discharge he was 
afebrile with oxygen saturation in the mid ___ on room air.  
   A bedsite swallow eval was performed and the recommendation 
was to continue with pureed diet with thin liquids, med crush in 
apple sauce and close supervision while eating.  He was 
continued to be placed on aspiration precaution.  U/A was 
negative and blood cxs have been negative to date.  
.
#HYPERNATREMIA: The most likely etiology is hypovolemia in the 
setting of fever and possibly reduced PO intake. He was given 
IVF with normalization of his sodium.
. 
.
Chronic issues: 
# Asthma, chronic: He was continued on home albuterol PRN. 
# Frontotemporal dementia/Parkinsonism:  He was continued on 
mirtazapine and bupropion    
# Hepatitis C, chronic: Mild transaminitis on LFT. 
.
Transitional: 
-pending studies: 
-code status: DNI/DNR 
# Emergency Contact: ___ HCP ___, cell ___ ___ (wife) cell ___, home ___ 
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob/wheezing 
3. Mirtazapine 15 mg PO HS 
4. Bisacodyl 10 mg PR QMOWEFR 
5. Polyethylene Glycol 17 g PO DAILY 
6. BuPROPion 75 mg PO BID 
7. Metoclopramide 5 mg PO BID 
8. Acetaminophen 650 mg PO Q6H:PRN fever/discomfort 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN fever/discomfort 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob/wheezing 
3. Bisacodyl 10 mg PR QMOWEFR 
4. BuPROPion 75 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. Polyethylene Glycol 17 g PO DAILY 
7. Mirtazapine 15 mg PO HS 
8. Levofloxacin 750 mg PO DAILY Duration: 4 Days 
9. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H Duration: 4 Days 
10. Metoclopramide 5 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aspiration pneumonia
Dementia
Hypernatremia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
It was a pleasure looking after you.  As you know, you were 
admitted with fever and rapid heart rate.  A chest CT scan was 
done and identified findings consistent with a pneumonia - 
possibly aspiration related (food/saliva going down the airway). 
 You received antibiotics with good response.  Please continue 
the antibiotics until ___.  They can be crushed and putting 
into pureed diet.  
   
 
Followup Instructions:
___